Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-7.72523129
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7],1.72644594532
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],0.81182403895
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.358780672769998
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:13]([H:14])([H:15])[H:16],3.54965796775
[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14]1>>[H:1][C:2]([H:3])([H:4])[C:5][O:14][C:11]([C:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13],5.13037497666
[H:12].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.90849466057
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]=[O:9],1.08141249058
[H:10].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:11][H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12],-1.26675187659
[H:1][O:2][C@:3]12[O:4][C@:5]1([H:6])[C:7]2[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3](=[O:4])[C:7](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11],-0.8848239142919999
[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7].[O:8]=[C:9][H:10]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9][H:10],-1.25886726
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.69327900156
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.24673462233
[H:12].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.42228668955
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],5.36862653129
[C:1]#[C:2][H:3].[C:4](#[C:5][C:6]([H:7])[H:8])[O:9][H:10]>>[C:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.33866962074
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57770562643
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2],0.75967514977
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],6.111600878300001
[C:4](#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.4735055601499998
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]#[C:3][C:7]([H:8])=[C:9]([H:10])[H:11].[C:4]([H:5])[H:6],5.61968134535
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]1>>[H:1][O:2]/[C:3](=[C:4](\[H:5])[C:6][H:7])[O:11][C:8]([H:9])[H:10],4.0341887484
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.97657260325
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.06037756398
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.578891925290001
[H:11].[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.31907560505
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.30810906799
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.31845674869
